US06783812B2
3. 2-(2,3-Difluoro-4-oct-7-enyloxyphenyl)-5-octylpyrimidine
A suspension of 2-(2,3-difluoro-4-hydroxyphenyl)-5-octylpyrimidine (1.00 g, 3.07 mmol), 8-bromo-1-octene (0.59 g, 3.07 mmol) and cesium carbonate (1.99 g, 6.14 mmol) in acetone (70 ml) was heated under reflux for 18 h. The reaction mixture was cooled to room temperature, washed with water and the organic layer extracted in ethyl acetate/hexane (3 times, 1:1). The combined extracts were washed with brine, dried (MgSO4) and the solvent removed in vacuo. The residues were purified by column chromatography [silica gel, eluted with hexane/ethyl acetate (4:1), Rf 0.30] and recrystallized from hexane to yield colorless crystals.

reactant | 2-(2,3-difluoro-4-hydroxyphenyl)-5-octylpyrimidine | 3.07 mmol, 1.00 g | FC1=C(C=CC(=C1F)O)C1=NC=C(C=N1)CCCCCCCC | C18H22F2N2O
reactant | 8-bromo-1-octene | 3.07 mmol, 0.59 g | BrCCCCCCC=C | C8H15Br
reactant | cesium carbonate | 6.14 mmol, 1.99 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | 2-(2,3-Difluoro-4-oct-7-enyloxyphenyl)-5-octylpyrimidine | FC1=C(C=CC(=C1F)OCCCCCCC=C)C1=NC=C(C=N1)CCCCCCCC | C26H36F2N2O
